US05514680
C. 3-Amino-6-chloro-4-nitrobenzotrifluoride
A mixture of 3-acetamido-6-chloro-4-nitrobenzotrifluoride (780 mg, 2.76 mmol) in concentrated HCl (3 mL) was refluxed overnight and it was extracted by ethyl acetate (2×3 mL). The extract was dried over Mg2SO4 and evaporated to give 517 mg (78%) of 3-amino-6-chloro-4-nitrobenzofluoride. 1H NMR (CDCl3): δ6.205 (s, 2H); 7.206 (s, 1H); 8.263 (s, 1H).

reactant | 3-acetamido-6-chloro-4-nitrobenzotrifluoride | 2.76 mmol, 780 mg | C(C)(=O)NC=1C=C(C(=CC1[N+](=O)[O-])Cl)C(F)(F)F | C9H6ClF3N2O3
solvent | HCl | 3 mL | Cl | ClH
product | 3-Amino-6-chloro-4-nitrobenzotrifluoride | NC=1C=C(C(=CC1[N+](=O)[O-])Cl)C(F)(F)F | C7H4ClF3N2O2
